US04554269
A solution of decanoyl chloride (5.0 g) in tetrahydrofuran (20 ml) was dropwise added to a mixture of N-hydroxysuccinimide (3.06 g) and triethylamine (3.7 ml) in tetrahydrofuran (30 ml) with stirring under ice-cooling. The mixture was stirred at the same temperature for one hour and then at ambient temperature for 15 hours. A precipitate was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (50 ml). The solution was washed with water (50 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to give N-decanoyloxysuccinimide as a crystal (4.95 g).

reactant | decanoyl chloride | 5.0 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | N-hydroxysuccinimide | 3.06 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-decanoyloxysuccinimide | 4.95 g | C(CCCCCCCCC)(=O)ON1C(CCC1=O)=O | C14H23NO4
